2184-03-26 07:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2184-3-25**] 10:45 AM
 BLOOD CULTURED - At [**2184-3-25**] 12:00 PM
 URINE CULTURE - At [**2184-3-25**] 12:00 PM
 ARTERIAL LINE - START [**2184-3-25**] 12:04 PM
 MULTI LUMEN - START [**2184-3-25**] 02:32 PM
 EEG - At [**2184-3-25**] 03:18 PM
 TRANSTHORACIC ECHO - At [**2184-3-25**] 03:18 PM
 EKG - At [**2184-3-25**] 05:16 PM
 EKG - At [**2184-3-25**] 10:23 PM
 EKG - At [**2184-3-26**] 12:00 AM
 MULTI LUMEN - STOP [**2184-3-26**] 12:09 AM inserted in the floor 5
   [**Hospital Ward Name 522**]
 FEVER - 101.1
C - [**2184-3-25**] 11:00 AM
   - CVP from central line was 3, received fluid boluses.
   - got a-line and CVL
   - q8 CE (4pm: CK: 467  MB: 16  MBI: 3.4  Trop-T: 0.10, 12 am: CK: 337
   MB: 19  MBI: 5.6  Trop-T: 0.06), famotidine IV for now
   - neuro (question if need asa onboard for brain lesions): MRI CNS when
   warmed to rule out a right sided stroke in th econtext of PEA. The
   other possibility in this context is [**Doctor Last Name **] paralysis (right
   hemispheric source). Will be on EEG monitoring with cooling protocol.
   LP pending to assess possibility of encephalitis.  Rec CT head within
   24 hrs.
   - On Cooling Study with Steroid v. Placebo: went down to 32, decided to
   gone up to 34.  EEG fellow was called regarding feet flapping
   activity.  had MAT on EKG when cooled to 32.  HRT <50 need to page/call
   [**Doctor Last Name 963**].
   - GPC in clusters from [**3-25**] blood culture from femoral TL.
   Allergies:
   Zocor (Oral) (Simvastatin)
   increased liver
   Last dose of Antibiotics:
   Vancomycin - [**2184-3-25**] 09:59 AM
   Acyclovir - [**2184-3-25**] 05:54 PM
   Piperacillin - [**2184-3-26**] 02:00 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Phenylephrine - 2 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.4 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2184-3-25**] 11:00 AM
   Midazolam (Versed) - [**2184-3-25**] 04:20 PM
   Fentanyl - [**2184-3-25**] 04:20 PM
   Heparin Sodium (Prophylaxis) - [**2184-3-25**] 04:31 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-3-26**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 38.4
C (101.1
   Tcurrent: 33.8
C (92.8
   HR: 58 (56 - 138) bpm
   BP: 104/50(70) {78/50(65) - 104/64(308)} mmHg
   RR: 17 (17 - 37) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 70 Inch
    CVP: 3 (3 - 15)mmHg
   Total In:
                                                                  7,818 mL
                                                                  2,089 mL
   PO:
   TF:
   IVF:
                                                                  7,318 mL
                                                                  2,089 mL
   Blood products:
   Total out:
                                                                    520 mL
                                                                    130 mL
   Urine:
                                                                    520 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,298 mL
                                                                  1,959 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 2
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 13 cmH2O
   SpO2: 98%
   ABG: 7.29/30/78.[**Numeric Identifier 274**]/15/-10
   Ve: 10.3 L/min
   PaO2 / FiO2: 158
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   149 K/uL
   10.6 g/dL
   312 mg/dL
   1.9 mg/dL
   15 mEq/L
   4.9 mEq/L
   56 mg/dL
   103 mEq/L
   131 mEq/L
   34.6 %
   21.0 K/uL
        [image002.jpg]
                             [**2184-3-25**]  05:40 AM
                             [**2184-3-25**]  12:00 PM
                             [**2184-3-25**]  04:01 PM
                             [**2184-3-25**]  05:33 PM
                             [**2184-3-25**]  10:21 PM
                             [**2184-3-26**]  02:01 AM
                             [**2184-3-26**]  02:19 AM
                             [**2184-3-26**]  05:52 AM
                             [**2184-3-26**]  06:04 AM
   WBC
   15.3
   21.0
   Hct
   30.6
   34.6
   Plt
   188
   149
   Cr
   2.2
   2.2
   1.8
   1.9
   TropT
   <0.01
   0.19
   0.10
   0.06
   TCO2
   14
   15
   15
   15
   Glucose
   89
   138
   164
   291
   312
   Other labs: PT / PTT / INR:18.8/43.2/1.7, CK / CKMB /
   Troponin-T:337/19/0.06, ALT / AST:29/74, Alk Phos / T Bili:138/1.3,
   Lactic Acid:5.1 mmol/L, Albumin:1.7 g/dL, LDH:684 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:6.9 mg/dL
   CT of HEAD:  IMPRESSION: Scattered areas with low attenuation in the
   subcortical white matter as described above, more conspicuous on the
   right frontal lobe, consistent with the previously demonstrated
   thromboembolic ischemic changes, and there is no evidence of
   hemorrhagic transformation, mass,mass effect, or shifting of the
   normally midline structures. Persistent prominent sulci at the left
   frontal region, followup in this area is recommended. If there is any
   clinical concern related with new ischemic area, correlation with MRI
   is recommended if clinically warranted.
   - repeat Echo: Overall left ventricular systolic function is severely
   depressed (LVEF= 20-25%).  There is a very small pericardial effusion,
   no signs of tamponade.  Compared with the prior study (images reviewed)
   of [**2184-3-15**], ejection fraction is now severely depressed. The right
   ventricle, although not well seen, is dilated and hypokinetic. There is
   a small amount of pericardial fluid seen adjacent to the right atrium,
   without evidence of tamponade physiology.
   - MRI of C-spine and head: 1. Limited study due to motion. 2. No
   definite brainstem or cord signal abnormality. 3. Mild to moderate
   spinal canal stenosis at C3-4, with probable at least moderate neural
   foraminal narrowing at this level as well, though evaluation of the
   neural foramina is markedly limited due to motion.
   Assessment and Plan
   74 y.o. man with pmh CAD, admitted [**3-6**] with fevers and hypotension,
   currently undergoing extensive workup for FUO with interval development
   of embolic hemorrhagic strokes, found unresponsive, asystolic, and
   pulseless, s/p resusciation.
   .
   #Unresponsiveness/Hemodynamic instability: The first documented rhythm
   was PEA.  patient was coded for roughly 20 minutes, undergoing CPR and
   NaHCO3 and epinephrine.  Unclear etiology, though patient had prodrome
   during the day of new weakness and upgoing babinski, along with urinary
   retention, which then progressed to respiratory alkalosis of unknown
   cause.  Lactate during the code was 8.1.  he is currently being
   supported on levophed and fluids.  CE was elevated as expected, but not
   down trending.  He was put on cooling protocol s/p Echo, EEG, CT of
   head.  New RIJ was started but femoral TL was not pulled (1 positive
   blood culture from the femoral site
 GPC in clusters).
   - vancomycin, zosyn
   - maintain pressors, wean as tolerated after re-warming starting with
   neo
   - repeat LENIs to rule out possible PE contributing to event
   -continue on cooling protocol to complete 18-24 hr duration, then
   re-warm
   -f/u bld, urine cx
   -head imaging pending re-warming
   -c-spine MRI pending re-warming
   -consider LP when warmed
   - f/up neuro recs
   - trend lactate (presistently elevated to 5.1
 likely [**1-20**] to
   peripheral vasoconstriction).
   .
   #Respiratory status: oxygenating well on current settings,
   hyperventilating as well.
   - on vent continue current settings
   .
   #Metabolic acidosis with appropriate respiratory compensation: notable
   for lactate of 5.1
 last abg 7.29/30/79.  likely due to cardiac
   disfunction, poor forward flow + increased afterload due to pressors
   and cooling
   - cont. cooling protocol
   - maintain pressors, wean as tolerated after re-warming starting with
   neo
   .
   #Fevers of unknown origin - fever curve has trended down with T max of
   100.1. Per discussions with ID, would not pursue gallium scan unless
   spikes a true fever. Continues to be off antibiotics. Per primary team,
   ID recomends gallium scan if he spikes another true fever, Rheum does
   not feel this ios consistent with vasculitis or lupus.  Endocrine team
   feels that he is adrenally sufficient and would not supplement with
   steroids at this point. Per hematology, bone marrow with hypercellular
   marrow and not myeloma.
   -- Continue to monitor fever curve
   -- f/u CRP
   -- consider LP
   - d/c acyclovir
   .
   #embolic stroke: continuing aspirin and pravastatin per neurology.
   -consider holter on discharge
   -appreciate and follow neuro rec
   .
   * Hypothyroidism/Adrenal nodules - Per endo, feel that while he did not
   have a rise in cortisol by 8 points, still feel that he does not need
   steroids given his normal AM cortisol. Additionally, feel that he has
   sick euthyroid and would not give thyroid replacement at this time.
   -- Will need f/u TFTs in [**2-19**] weeks
   -- Will need endocrine follow up.
   .
   * CAD, native vessel - No chest pain.
   -- Continue ASA, statin
   -- Hold BB given hypotension
   .
   * Hyperlipidemia - Statin as above
   .
   * Chronic kidney disease, stage III - Stable.
   .
   # Hyperglycemia
   -start insulin
   .
   # FEN: IVF, replete electrolytes, nutrition consult for tube feeds
   # Prophylaxis: Subcutaneous heparin, pneumoboots
   # Access: peripherals, right femoral line
   # Communication: family
   # Code: DNR/DNI
   # Disposition: ICU pending clinical improvement
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTHERMIA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2184-3-25**] 12:04 PM
   Multi Lumen - [**2184-3-25**] 02:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2184-03-27 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2184-3-26**] 10:00 AM
 EKG - At [**2184-3-26**] 11:56 AM
 EKG - At [**2184-3-26**] 01:30 PM
   - Neuro - MR [**Name13 (STitle) **] --> have to re-order today
   - Cooling: Dc in 18 hours --> DC at 9 AM
   - F/u LENIS - is this PEA from PE? --> will do today
   - 10 AM Lytes, Coags: INR 1.7, Na 131, Cr 1.8
   - DC'd Acyclovir, Aspirin
   - Attempt to wean Neo: cut in half
   - Rheum, endo, id, neuro recs:
   - Wake up trial in AM
   - family does not want to prolong this condition
   Allergies:
   Zocor (Oral) (Simvastatin)
   increased liver
   Last dose of Antibiotics:
   Acyclovir - [**2184-3-25**] 05:54 PM
   Vancomycin - [**2184-3-26**] 11:00 AM
   Piperacillin - [**2184-3-27**] 02:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Phenylephrine - 0.1 mcg/Kg/min
   Insulin - Regular - 3 units/hour
   Norepinephrine - 0.4 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2184-3-26**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2184-3-26**] 04:00 PM
   Dextrose 50% - [**2184-3-26**] 10:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-3-27**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   HR: 75 (51 - 91) bpm
   BP: 94/50(67) {91/50(67) - 122/74(91)} mmHg
   RR: 21 (16 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.2 kg (admission): 89 kg
   Height: 70 Inch
    CVP: 5 (5 - 10)mmHg
   Total In:
                                                                  4,930 mL
                                                                    879 mL
   PO:
   TF:
   IVF:
                                                                  4,905 mL
                                                                    879 mL
   Blood products:
   Total out:
                                                                    621 mL
                                                                    485 mL
   Urine:
                                                                    371 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
                                                                    250 mL
                                                                    340 mL
   Balance:
                                                                  4,309 mL
                                                                    394 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 637 (637 - 637) mL
   PS : 8 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 48
   PIP: 14 cmH2O
   SpO2: 98%
   ABG: 7.38/28/111/16/-6
   Ve: 11.6 L/min
   PaO2 / FiO2: 222
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   147 K/uL
   10.1 g/dL
   159 mg/dL
   2.0 mg/dL
   16 mEq/L
   4.5 mEq/L
   62 mg/dL
   99 mEq/L
   126 mEq/L
   31.1 %
   28.8 K/uL
        [image002.jpg]
                             [**2184-3-26**]  06:04 AM
                             [**2184-3-26**]  09:02 AM
                             [**2184-3-26**]  09:26 AM
                             [**2184-3-26**]  01:36 PM
                             [**2184-3-26**]  05:33 PM
                             [**2184-3-26**]  05:48 PM
                             [**2184-3-26**]  09:47 PM
                             [**2184-3-26**]  10:06 PM
                             [**2184-3-27**]  05:27 AM
                             [**2184-3-27**]  06:07 AM
   WBC
   28.8
   Hct
   31.1
   Plt
   147
   Cr
   1.8
   1.9
   1.9
   1.9
   2.0
   TCO2
   15
   15
   17
   18
   17
   Glucose
   297
   259
   126
   37
   159
   Other labs: PT / PTT / INR:16.7/36.9/1.5, CK / CKMB /
   Troponin-T:337/19/0.06, ALT / AST:29/74, Alk Phos / T Bili:138/1.3,
   Lactic Acid:2.8 mmol/L, Albumin:1.6 g/dL, LDH:684 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
   74 y.o. man with pmh CAD, admitted [**3-6**] with fevers and hypotension,
   currently undergoing extensive workup for FUO with interval development
   of embolic hemorrhagic strokes, found unresponsive, asystolic, and
   pulseless, s/p resusciation.
   .
   #Unresponsiveness/Hemodynamic instability: The first documented rhythm
   was PEA.  patient was coded for roughly 20 minutes, undergoing CPR and
   NaHCO3 and epinephrine.  Unclear etiology, though patient had prodrome
   during the day of new weakness and upgoing babinski, along with urinary
   retention, which then progressed to respiratory alkalosis of unknown
   cause.  Lactate during the code was 8.1.  he is currently being
   supported on levophed and fluids.  CE was elevated as expected, but not
   down trending.  He was put on cooling protocol s/p Echo, EEG, CT of
   head.  Had Femoral line with 1 postive BCx
 GPC - New RIJ was started
   on [**3-25**]. Was cooled and then rewarmed.
   - vancomycin, zosyn
   - maintain pressors, wean as tolerated starting with neo
   - repeat LENIs to rule out possible PE contributing to event
   -f/u bld, urine cx
   -head imaging pending weaning of one pressor
   -c-spine MRI
   -consider LP when stable
   - f/up neuro recs
   - trend lactate (presistently elevated to 5 and falling today to 2.2
   ..
   #Respiratory status: oxygenating well, improving RSBI
   - on vent continue to wean
   .
   #Metabolic acidosis with appropriate respiratory compensation: notable
   for lactate of 5.1
 last abg 7.29/30/79.  likely due to cardiac
   disfunction, poor forward flow + increased afterload due to pressors
   and cooling
   - cont. cooling protocol
   - maintain pressors, wean as tolerated after re-warming starting with
   neo
   .
   #Fevers of unknown origin - fever curve has trended down with T max of
   100.1. Per discussions with ID, would not pursue gallium scan unless
   spikes a true fever. Continues to be off antibiotics. Per primary team,
   ID recomends gallium scan if he spikes another true fever, Rheum does
   not feel this ios consistent with vasculitis or lupus.  Endocrine team
   feels that he is adrenally sufficient and would not supplement with
   steroids at this point. Per hematology, bone marrow with hypercellular
   marrow and not myeloma.
   -- Continue to monitor fever curve
   -- f/u CRP
   -- consider LP
   - d/c acyclovir
   .
   # Hypoalbuminemia: renal disease, Poor PO. Likely contributes to
   intravascular volume and pressure problems
   .
   #embolic stroke: continuing aspirin and pravastatin per neurology.
   -consider holter on discharge
   -appreciate and follow neuro rec
   .
   * Hypothyroidism/Adrenal nodules - Per endo, feel that while he did not
   have a rise in cortisol by 8 points, still feel that he does not need
   steroids given his normal AM cortisol. Additionally, feel that he has
   sick euthyroid and would not give thyroid replacement at this time.
   -- Will need f/u TFTs in [**2-19**] weeks
   -- Will need endocrine follow up.
   .
   * CAD, native vessel - No chest pain.
   -- Continue ASA, statin
   -- Hold BB given hypotension
   .
   * Hyperlipidemia - Statin as above
   .
   * Chronic kidney disease, stage III - Stable.
   .
   # Hyperglycemia
   -start insulin
   .
   # FEN: IVF, replete electrolytes, nutrition consult for tube feeds
   # Prophylaxis: Subcutaneous heparin, pneumoboots
   # Access: peripherals, right femoral line
   # Communication: family
   # Code: DNR/DNI
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2184-3-25**] 12:04 PM
   Multi Lumen - [**2184-3-25**] 02:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2184-03-27 09:50:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Completed cooling/warming cycle s/p PEA arrest.
   Remains on 3 vasopressors --> gradually tapering.
   Neurologically without new findings.  Periodically lifts arms.
   Remains on insulin pump to maintain glucose control.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy, ETT
   intubation
   Allergies:
   Zocor (Oral) (Simvastatin)
   increased liver
   Last dose of Antibiotics:
   Acyclovir - [**2184-3-25**] 05:54 PM
   Vancomycin - [**2184-3-26**] 11:00 AM
   Piperacillin - [**2184-3-27**] 02:00 AM
   Infusions:
   Phenylephrine - 0.8 mcg/Kg/min
   Insulin - Regular - 2.5 units/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.4 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-3-26**] 04:00 PM
   Dextrose 50% - [**2184-3-26**] 10:19 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes:  Blurry vision
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2184-3-27**] 09:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   HR: 75 (51 - 91) bpm
   BP: 93/51(66) {91/50(66) - 122/74(91)} mmHg
   RR: 21 (16 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.2 kg (admission): 89 kg
   Height: 70 Inch
   CVP: 4 (4 - 10)mmHg
   Total In:
                                                                  4,930 mL
                                                                  1,097 mL
   PO:
   TF:
   IVF:
                                                                  4,905 mL
                                                                  1,097 mL
   Blood products:
   Total out:
                                                                    621 mL
                                                                    565 mL
   Urine:
                                                                    371 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
                                                                    250 mL
                                                                    340 mL
   Balance:
                                                                  4,309 mL
                                                                    532 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 571 (571 - 637) mL
   PS : 8 cmH2O
   RR (Set): 16
   RR (Spontaneous): 24
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 48
   PIP: 17 cmH2O
   SpO2: 99%
   ABG: 7.38/28/111/16/-6
   Ve: 14.8 L/min
   PaO2 / FiO2: 222
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Cool, No(t) Rash: , No(t) Jaundice, mottled toes (esp great toe)
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal, Flaccid extremities.  Actively
   attempts to close eyes when opened mannually.  Opens eyes to sternal
   rub.
   Labs / Radiology
   10.1 g/dL
   147 K/uL
   159 mg/dL
   2.0 mg/dL
   16 mEq/L
   4.5 mEq/L
   62 mg/dL
   99 mEq/L
   126 mEq/L
   31.1 %
   28.8 K/uL
        [image002.jpg]
                             [**2184-3-26**]  06:04 AM
                             [**2184-3-26**]  09:02 AM
                             [**2184-3-26**]  09:26 AM
                             [**2184-3-26**]  01:36 PM
                             [**2184-3-26**]  05:33 PM
                             [**2184-3-26**]  05:48 PM
                             [**2184-3-26**]  09:47 PM
                             [**2184-3-26**]  10:06 PM
                             [**2184-3-27**]  05:27 AM
                             [**2184-3-27**]  06:07 AM
   WBC
   28.8
   Hct
   31.1
   Plt
   147
   Cr
   1.8
   1.9
   1.9
   1.9
   2.0
   TCO2
   15
   15
   17
   18
   17
   Glucose
   297
   259
   126
   37
   159
   Other labs: PT / PTT / INR:16.7/36.9/1.5, CK / CKMB /
   Troponin-T:337/19/0.06, ALT / AST:29/74, Alk Phos / T Bili:138/1.3,
   Lactic Acid:2.8 mmol/L, Albumin:1.6 g/dL, LDH:684 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
   74 yom CAD, admitted [**3-6**] undergoing extensive workup for FUO with
   interval development of embolic hemorrhagic strokes, found
   unresponsive, asystolic, and pulseless, s/p resusciation.
   RESPIRATORY FAILURE -- intubated in context of cardiac arrest.
   #Unresponsiveness/Hemodynamic instability: The first documented rhythm
   was PEA.  patient was coded for roughly 20 minutes, undergoing CPR and
   NaHCO3 and epinephrine.  Unclear etiology, though patient had prodrome
   during the day of new weakness and upgoing babinski, along with urinary
   retention, which then progressed to respiratory alkalosis of unknown
   cause.  Lactate during the code was 8.1.  he is currently being
   supported on levophed and fluids.  CE was elevated as expected, but not
   down trending.  He was put on cooling protocol s/p Echo, EEG, CT of
   head.  New RIJ was started but femoral TL was not pulled (1 positive
   blood culture from the femoral site
 GPC in clusters).
   - vancomycin, zosyn
   - maintain pressors, wean as tolerated after re-warming starting with
   neo
   - repeat LENIs to rule out possible PE contributing to event
   -continue on cooling protocol to complete 18-24 hr duration, then
   re-warm
   -f/u bld, urine cx
   -head imaging pending re-warming
   -c-spine MRI pending re-warming
   -consider LP when warmed
   - f/up neuro recs
   - trend lactate (presistently elevated to 5.1
 likely [**1-20**] to
   peripheral vasoconstriction).
   .
   BACTEREMIA -- attributed to line placement in context of
   #Respiratory status: oxygenating well on current settings,
   hyperventilating as well.
   - on vent continue current settings
   .
   #Metabolic acidosis with appropriate respiratory compensation: notable
   for lactate of 5.1
 last abg 7.29/30/79.  likely due to cardiac
   disfunction, poor forward flow + increased afterload due to pressors
   and cooling
   - cont. cooling protocol
   - maintain pressors, wean as tolerated after re-warming starting with
   neo
   .
   #Fevers of unknown origin - fever curve has trended down with T max of
   100.1. Per discussions with ID, would not pursue gallium scan unless
   spikes a true fever. Continues to be off antibiotics. Per primary team,
   ID recomends gallium scan if he spikes another true fever, Rheum does
   not feel this ios consistent with vasculitis or lupus.  Endocrine team
   feels that he is adrenally sufficient and would not supplement with
   steroids at this point. Per hematology, bone marrow with hypercellular
   marrow and not myeloma.
   -- Continue to monitor fever curve
   -- f/u CRP
   -- consider LP
   - d/c acyclovir
   .
   #embolic stroke: continuing aspirin and pravastatin per neurology.
   -consider holter on discharge
   -appreciate and follow neuro rec
   .
   * Hypothyroidism/Adrenal nodules - Per endo, feel that while he did not
   have a rise in cortisol by 8 points, still feel that he does not need
   steroids given his normal AM cortisol. Additionally, feel that he has
   sick euthyroid and would not give thyroid replacement at this time.
   -- Will need f/u TFTs in [**2-19**] weeks
   -- Will need endocrine follow up.
   .
   * CAD, native vessel - No chest pain.
   -- Continue ASA, statin
   -- Hold BB given hypotension
   .
   * Hyperlipidemia - Statin as above
   .
   * Chronic kidney disease, stage III - Stable.
   .
   # Hyperglycemia
   -start insulin
   .
   # FEN: IVF, replete electrolytes, nutrition consult for tube feeds
   # Prophylaxis: Subcutaneous heparin, pneumoboots
   # Access: peripherals, right femoral line
   # Communication: family
   # Code: DNR/DNI
   # Disposition: ICU pending clinical improvement
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTHERMIA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2184-3-25**] 12:04 PM
   Multi Lumen - [**2184-3-25**] 02:32 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2184-03-28 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2184-3-27**] 11:12 PM
 BLOOD CULTURED - At [**2184-3-28**] 05:13 AM routine ordered w AM labs
   - weaned off neo, still on high doses of levophed / vasopressin
   - still haven't gotten LENIs, called Rads and re-ordered study
   - patient's activity level improved over course of day, started opening
   eyes and moving arms spontaneously
   - MRI allows only two infusions at a time: concern that he would need
   bolus sedation before scan, and if that dropped his pressures not much
   could be done because he was on near-max of two pressors, so delayed
   MRI for now
   - LENIS: No evidence of DVT seen in either lower extremity. Calf veins
   not assessed.
   Allergies:
   Zocor (Oral) (Simvastatin)
   increased liver
   Last dose of Antibiotics:
   Acyclovir - [**2184-3-25**] 05:54 PM
   Piperacillin - [**2184-3-27**] 02:00 AM
   Vancomycin - [**2184-3-27**] 08:55 AM
   Piperacillin/Tazobactam (Zosyn) - [**2184-3-28**] 02:23 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.28 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2184-3-27**] 09:30 AM
   Heparin Sodium (Prophylaxis) - [**2184-3-28**] 12:15 AM
   Fentanyl - [**2184-3-28**] 05:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-3-28**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (97
   HR: 67 (67 - 97) bpm
   BP: 93/48(65) {81/45(60) - 124/71(91)} mmHg
   RR: 21 (17 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.3 kg (admission): 89 kg
   Height: 70 Inch
    CVP: 7 (4 - 11)mmHg
   Total In:
                                                                  4,295 mL
                                                                  1,560 mL
   PO:
   TF:
   IVF:
                                                                  4,235 mL
                                                                  1,560 mL
   Blood products:
   Total out:
                                                                    965 mL
                                                                    204 mL
   Urine:
                                                                    625 mL
                                                                    204 mL
   NG:
   Stool:
   Drains:
                                                                    340 mL
   Balance:
                                                                  3,330 mL
                                                                  1,356 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 727 (486 - 727) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 31
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.39/28/147/13/-6
   Ve: 10.8 L/min
   PaO2 / FiO2: 367
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   109 K/uL
   9.4 g/dL
   218 mg/dL
   2.1 mg/dL
   13 mEq/L
   4.4 mEq/L
   67 mg/dL
   100 mEq/L
   126 mEq/L
   28.1 %
   30.5 K/uL
        [image002.jpg]
                             [**2184-3-26**]  05:33 PM
                             [**2184-3-26**]  05:48 PM
                             [**2184-3-26**]  09:47 PM
                             [**2184-3-26**]  10:06 PM
                             [**2184-3-27**]  05:27 AM
                             [**2184-3-27**]  06:07 AM
                             [**2184-3-27**]  04:00 PM
                             [**2184-3-27**]  04:40 PM
                             [**2184-3-28**]  05:00 AM
                             [**2184-3-28**]  05:14 AM
   WBC
   28.8
   30.5
   Hct
   31.1
   28.1
   Plt
   147
   109
   Cr
   1.9
   1.9
   2.0
   2.0
   2.1
   TCO2
   17
   18
   17
   17
   18
   Glucose
   126
   37
   159
   187
   218
   Other labs: PT / PTT / INR:15.8/35.0/1.4, CK / CKMB /
   Troponin-T:337/19/0.06, ALT / AST:29/74, Alk Phos / T Bili:138/1.3,
   Lactic Acid:3.0 mmol/L, Albumin:1.6 g/dL, LDH:684 IU/L, Ca++:7.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   74 y.o. man with pmh CAD, admitted [**3-6**] with fevers and hypotension,
   currently undergoing extensive workup for FUO with interval development
   of embolic hemorrhagic strokes, found unresponsive, asystolic, and
   pulseless, s/p resusciation.
   .
   # Unresponsiveness/Hemodynamic instability: PEA arrest on [**3-25**].  Patient
   was coded for roughly 20 minutes, undergoing chest compressions, NaHCO3
   and epinephrine.  Unclear etiology, though patient had prodrome during
   the day of new weakness and upgoing babinski, along with urinary
   retention, which then progressed to respiratory alkalosis of unknown
   cause. He was put on cooling protocol s/p Echo, EEG, CT of head
   (negative for acute bleed).  He had a femoral line with 1 positive BCx
 GPC - New RIJ was placed on [**3-25**].  He is still requiring pressor
   support, though able to be weaned off of neosynephrine overnight.
   - vancomycin, zosyn
   - maintain pressors, wean as tolerated starting with neo
   - repeat LENIs to rule out possible PE contributing to event
   - f/u bld, urine cx
   - Brain and C-spine MRI today
   - consider LP when stable
   - f/up neuro recs
   - trend lactate
   .
   # Respiratory status: oxygenating well, improving RSBI
   - on vent continue to wean
   .
   # Metabolic acidosis with appropriate respiratory compensation: notable
   for initial lactate of 5.1
 last abg 7.38/28/111. likely due to
   cardiac dysfunction, poor forward flow + increased afterload due to
   pressors and cooling
   - maintain pressors, wean as tolerated
   .
   # Fevers of unknown origin - fever curve has trended down with T max of
   100.1. Per discussions with ID, would not pursue gallium scan unless
   spikes a true fever. Continues to be off antibiotics. Per primary team,
   ID recomends gallium scan if he spikes another true fever, Rheum does
   not feel this ios consistent with vasculitis or lupus.  Endocrine team
   feels that he is adrenally sufficient and would not supplement with
   steroids at this point. Per hematology, bone marrow with hypercellular
   marrow and not myeloma.
   -- Continue to monitor fever curve
   -- f/u CRP
   -- consider LP
   .
   # Hypoalbuminemia: renal disease, Poor PO. Likely contributes to
   intravascular volume and pressure problems
   .
   # embolic stroke: continuing aspirin and pravastatin per neurology.
   -consider holter on discharge
   -appreciate and follow neuro rec
   .
   * Hypothyroidism/Adrenal nodules - Per endo, feel that while he did not
   have a rise in cortisol by 8 points, still feel that he does not need
   steroids given his normal AM cortisol. Additionally, feel that he has
   sick euthyroid and would not give thyroid replacement at this time.
   -- Will need f/u TFTs in [**2-19**] weeks
   -- Will need endocrine follow up.
   .
   * CAD, native vessel - No chest pain.
   -- Continue ASA, statin
   -- Hold BB given hypotension
   .
   * Hyperlipidemia - Statin as above
   .
   * Chronic kidney disease, stage III - Stable.
   .
   # Hyperglycemia
   -start insulin
   .
   # FEN: IVF, replete electrolytes, nutrition consult for tube feeds
   # Prophylaxis: Subcutaneous heparin, pneumoboots
   # Access: peripherals, right IJ CVL, R A-line
   # Communication: family
   # Code: DNR/DNI
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2184-3-25**] 12:04 PM
   Multi Lumen - [**2184-3-25**] 02:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2184-03-28 10:48:00 Physician Attending Progress Note
Chief Complaint: Respriatory failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.  Spontaneously breathing,
   tolerating IPS mode and SBT.
   Remains on vasopressors, but now tapered to 2 agents.
   Opens eyes spontaneously, but not clear purposeful.
   History obtained from Medical records
   Patient unable to provide history: ETT
   Allergies:
   Zocor (Oral) (Simvastatin)
   increased liver
   Last dose of Antibiotics:
   Acyclovir - [**2184-3-25**] 05:54 PM
   Piperacillin - [**2184-3-27**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2184-3-28**] 08:50 AM
   Vancomycin - [**2184-3-28**] 09:25 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Fentanyl - [**2184-3-28**] 05:08 AM
   Famotidine (Pepcid) - [**2184-3-28**] 08:19 AM
   Heparin Sodium (Prophylaxis) - [**2184-3-28**] 08:19 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2184-3-28**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.2
C (97.1
   HR: 86 (67 - 97) bpm
   BP: 112/55(76) {81/45(60) - 122/71(91)} mmHg
   RR: 25 (17 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.3 kg (admission): 89 kg
   Height: 70 Inch
   CVP: 5 (5 - 11)mmHg
   Total In:
                                                                  4,295 mL
                                                                  2,041 mL
   PO:
   TF:
   IVF:
                                                                  4,235 mL
                                                                  2,041 mL
   Blood products:
   Total out:
                                                                    965 mL
                                                                    241 mL
   Urine:
                                                                    625 mL
                                                                    241 mL
   NG:
   Stool:
   Drains:
                                                                    340 mL
   Balance:
                                                                  3,330 mL
                                                                  1,800 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 560 (486 - 727) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 31
   PIP: 6 cmH2O
   SpO2: 99%
   ABG: 7.39/28/147/13/-6
   Ve: 13.8 L/min
   PaO2 / FiO2: 367
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal, Resists eye opening.
   Occasional lifting of left hand.
   Labs / Radiology
   9.4 g/dL
   109 K/uL
   218 mg/dL
   2.1 mg/dL
   13 mEq/L
   4.4 mEq/L
   67 mg/dL
   100 mEq/L
   126 mEq/L
   28.1 %
   30.5 K/uL
        [image002.jpg]
                             [**2184-3-26**]  05:33 PM
                             [**2184-3-26**]  05:48 PM
                             [**2184-3-26**]  09:47 PM
                             [**2184-3-26**]  10:06 PM
                             [**2184-3-27**]  05:27 AM
                             [**2184-3-27**]  06:07 AM
                             [**2184-3-27**]  04:00 PM
                             [**2184-3-27**]  04:40 PM
                             [**2184-3-28**]  05:00 AM
                             [**2184-3-28**]  05:14 AM
   WBC
   28.8
   30.5
   Hct
   31.1
   28.1
   Plt
   147
   109
   Cr
   1.9
   1.9
   2.0
   2.0
   2.1
   TCO2
   17
   18
   17
   17
   18
   Glucose
   126
   37
   159
   187
   218
   Other labs: PT / PTT / INR:15.8/35.0/1.4, CK / CKMB /
   Troponin-T:337/19/0.06, ALT / AST:29/74, Alk Phos / T Bili:138/1.3,
   Lactic Acid:3.0 mmol/L, Albumin:1.6 g/dL, LDH:684 IU/L, Ca++:7.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   74 yom CAD, admitted [**3-6**] undergoing extensive workup for FUO with
   interval development of embolic hemorrhagic strokes, found
   unresponsive, asystolic, and pulseless, s/p resusciation.
   RESPIRATORY FAILURE -- intubated in context of cardiac arrest.  Stable
   on current settings.  Continue mechanical ventilation, Monitor SaO2.
   s/p CARDIAC ARREST
 asytole as initial rhythm, may have experienced
   PEA.  s/p cooling protocol, now complete.  Continue current level of
   support.  Enrolled in research study (receiving either steroid vs
   placebo)
   HYPOTENSION -- attributable in part to sepsis, but otherwise unclear.
   NEUROLOGICAL  -- evidence for multiple CVA, unclear etiology.  Continue
   evaluation as outlined.   Consider multiple embolic events, such as
   endocarditis.  Awaiting MRI of spine to assess for spinal cord lesion.
   BACTEREMIA -- attributed to line placement in context of code.
   Continue antimicrobials.
   METABOLIC ACIDOSIS --  Notable for prior lactate of 5.1, now
   improving.  Would repeat.
   RENAL FAILURE -- acute on chronic insufficiency.  Non-oliguric.
   Monitor UO, BUN, creatinine.
   HYPONATREMIA -- total body water overloaded.  Would check serum/urine
   osmoles, urine electrolytes.  Would provide NS constant infusion,
   monitor serial Na.
   HYPERGLYCEMIA -- improved control.  Now off insulin infusion.  Maintain
   glucose <150.
   FUO
 unclear etiology.  Evaluation in progress.  Currently without
   fever.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2184-3-25**] 12:04 PM
   Multi Lumen - [**2184-3-25**] 02:32 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2184-03-29 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2184-3-28**] 09:00 PM
 ARTERIAL LINE - STOP [**2184-3-29**] 12:45 AM
   - weaned off vaso
   - went for MRI
   - lactate 2.7
   - sputum cx sent
   Allergies:
   Zocor (Oral) (Simvastatin)
   increased liver
   Last dose of Antibiotics:
   Piperacillin - [**2184-3-27**] 02:00 AM
   Vancomycin - [**2184-3-28**] 10:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2184-3-29**] 02:17 AM
   Infusions:
   Norepinephrine - 0.25 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2184-3-28**] 08:19 AM
   Midazolam (Versed) - [**2184-3-28**] 10:15 PM
   Heparin Sodium (Prophylaxis) - [**2184-3-29**] 12:45 AM
   Fentanyl - [**2184-3-29**] 03:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-3-29**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.6
C (96
   HR: 82 (70 - 102) bpm
   BP: 105/60(71) {103/60(71) - 119/72(81)} mmHg
   RR: 22 (19 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.5 kg (admission): 89 kg
   Height: 70 Inch
    CVP: 8 (5 - 13)mmHg
   Total In:
                                                                  4,220 mL
                                                                    477 mL
   PO:
   TF:
   IVF:
                                                                  4,190 mL
                                                                    477 mL
   Blood products:
   Total out:
                                                                    308 mL
                                                                    480 mL
   Urine:
                                                                    308 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,912 mL
                                                                     -3 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 609 (560 - 843) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 47
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.34/31/98.[**Numeric Identifier 500**]/14/-7
   Ve: 16.3 L/min
   PaO2 / FiO2: 245
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   109 K/uL
   9.6 g/dL
   220 mg/dL
   2.1 mg/dL
   14 mEq/L
   3.9 mEq/L
   67 mg/dL
   100 mEq/L
   125 mEq/L
   29.7 %
   30.5 K/uL
        [image002.jpg]
                             [**2184-3-26**]  10:06 PM
                             [**2184-3-27**]  05:27 AM
                             [**2184-3-27**]  06:07 AM
                             [**2184-3-27**]  04:00 PM
                             [**2184-3-27**]  04:40 PM
                             [**2184-3-28**]  05:00 AM
                             [**2184-3-28**]  05:14 AM
                             [**2184-3-28**]  12:01 PM
                             [**2184-3-28**]  02:59 PM
                             [**2184-3-29**]  05:00 AM
   WBC
   28.8
   30.5
   Hct
   31.1
   28.1
   29.7
   Plt
   147
   109
   Cr
   2.0
   2.0
   2.1
   2.1
   2.1
   TCO2
   18
   17
   17
   18
   17
   Glucose
   159
   187
   218
   229
   220
   Other labs: PT / PTT / INR:14.1/35.2/1.2, CK / CKMB /
   Troponin-T:337/19/0.06, ALT / AST:29/74, Alk Phos / T Bili:138/1.3,
   Lactic Acid:2.7 mmol/L, Albumin:1.6 g/dL, LDH:684 IU/L, Ca++:7.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   74 y.o. man with pmh CAD, admitted [**3-6**] with fevers and hypotension,
   currently undergoing extensive workup for FUO with interval development
   of embolic hemorrhagic strokes, found unresponsive, asystolic, and
   pulseless, s/p resusciation.
   .
   # Unresponsiveness/Hemodynamic instability: PEA arrest on [**3-25**].  Patient
   was coded for roughly 20 minutes, undergoing chest compressions, NaHCO3
   and epinephrine.  Unclear etiology, though patient had prodrome during
   the day of new weakness and upgoing babinski, along with urinary
   retention, which then progressed to respiratory alkalosis of unknown
   cause. He was put on cooling protocol s/p Echo, EEG, CT of head
   (negative for acute bleed).  He had a femoral line with 1 positive BCx
 GPC - New RIJ was placed on [**3-25**].  He is still requiring pressor
   support, though able to be weaned off of neosynephrine overnight.
   - vancomycin, zosyn
 dc vancomycin as coag neg
   - maintain pressors, wean as tolerated, now only on levophed
   - f/u bld, urine cx
   - f/u Brain and C-spine MRI today
   - consider LP when stable
   - f/up neuro recs
   - trend lactate
   .
   # Thrombocytopoenia
 platelets today are 72, stepwise decline from 201
   on [**3-25**]^th. Most likely possibility is drug related (zosyn vs
   heparin vs vancomycin), could also be DIC (unlikely given stable HCT)
   or TTP. Unclear if this affects his prognosis
   - trend
   - DC heparin, vancomycin
   .
   # Respiratory status: oxygenating well, improving RSBI
   - on vent continue to wean
   .
   # Metabolic acidosis with appropriate respiratory compensation: notable
   for initial lactate of 5.1
 last abg 7.38/28/111. likely due to
   cardiac dysfunction, poor forward flow + increased afterload due to
   pressors and cooling
   - maintain pressors, wean as tolerated
   .
   # Fevers of unknown origin - fever curve has trended down with T max of
   100.1. Per discussions with ID, would not pursue gallium scan unless
   spikes a true fever. Continues to be off antibiotics. Per primary team,
   ID recomends gallium scan if he spikes another true fever, Rheum does
   not feel this ios consistent with vasculitis or lupus.  Endocrine team
   feels that he is adrenally sufficient and would not supplement with
   steroids at this point. Per hematology, bone marrow with hypercellular
   marrow and not myeloma.
   -- Continue to monitor fever curve
   -- f/u CRP
   -- consider LP
   .
   # Hypoalbuminemia: renal disease, Poor PO. Likely contributes to
   intravascular volume and pressure problems
   .
   # embolic stroke: continuing aspirin and pravastatin per neurology.
   -consider holter on discharge
   -appreciate and follow neuro rec
   .
   * Hypothyroidism/Adrenal nodules - Per endo, feel that while he did not
   have a rise in cortisol by 8 points, still feel that he does not need
   steroids given his normal AM cortisol. Additionally, feel that he has
   sick euthyroid and would not give thyroid replacement at this time.
   -- Will need f/u TFTs in [**2-19**] weeks
   -- Will need endocrine follow up.
   .
   * CAD, native vessel - No chest pain.
   -- Continue ASA, statin
   -- Hold BB given hypotension
   .
   * Hyperlipidemia - Statin as above
   .
   * Chronic kidney disease, stage III - Stable.
   .
   # Hyperglycemia
   - insulin sliding scale
   .
   # FEN: IVF, replete electrolytes, nutrition consult for tube feeds
   # Prophylaxis: Subcutaneous heparin, pneumoboots
   # Access: peripherals, right IJ CVL, R A-line
   # Communication: family
   # Code: DNR/DNI
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2184-3-25**] 02:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2184-03-29 11:20:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, ETT
   Allergies:
   Zocor (Oral) (Simvastatin)
   increased liver
   Last dose of Antibiotics:
   Piperacillin - [**2184-3-27**] 02:00 AM
   Vancomycin - [**2184-3-29**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2184-3-29**] 09:00 AM
   Infusions:
   Norepinephrine - 0.18 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2184-3-28**] 10:15 PM
   Heparin Sodium (Prophylaxis) - [**2184-3-29**] 12:45 AM
   Fentanyl - [**2184-3-29**] 03:39 AM
   Famotidine (Pepcid) - [**2184-3-29**] 09:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2184-3-29**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.8
C (96.4
   HR: 95 (70 - 102) bpm
   BP: 110/62(72) {93/60(71) - 119/72(81)} mmHg
   RR: 24 (20 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.5 kg (admission): 89 kg
   Height: 70 Inch
   CVP: 8 (7 - 13)mmHg
   Total In:
                                                                  4,220 mL
                                                                    929 mL
   PO:
   TF:
   IVF:
                                                                  4,190 mL
                                                                    929 mL
   Blood products:
   Total out:
                                                                    308 mL
                                                                  1,000 mL
   Urine:
                                                                    308 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,912 mL
                                                                    -71 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 640 (606 - 843) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 47
   PIP: 12 cmH2O
   SpO2: 100%
   ABG: 7.34/31/98.[**Numeric Identifier 500**]/14/-7
   Ve: 12.8 L/min
   PaO2 / FiO2: 245
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Decreased
   Labs / Radiology
   9.6 g/dL
   72 K/uL
   220 mg/dL
   2.1 mg/dL
   14 mEq/L
   3.9 mEq/L
   67 mg/dL
   100 mEq/L
   125 mEq/L
   29.7 %
   25.5 K/uL
        [image002.jpg]
                             [**2184-3-26**]  10:06 PM
                             [**2184-3-27**]  05:27 AM
                             [**2184-3-27**]  06:07 AM
                             [**2184-3-27**]  04:00 PM
                             [**2184-3-27**]  04:40 PM
                             [**2184-3-28**]  05:00 AM
                             [**2184-3-28**]  05:14 AM
                             [**2184-3-28**]  12:01 PM
                             [**2184-3-28**]  02:59 PM
                             [**2184-3-29**]  05:00 AM
   WBC
   28.8
   30.5
   25.5
   Hct
   31.1
   28.1
   29.7
   Plt
   147
   109
   72
   Cr
   2.0
   2.0
   2.1
   2.1
   2.1
   TCO2
   18
   17
   17
   18
   17
   Glucose
   159
   187
   218
   229
   220
   Other labs: PT / PTT / INR:14.1/35.2/1.2, CK / CKMB /
   Troponin-T:337/19/0.06, ALT / AST:29/74, Alk Phos / T Bili:138/1.3,
   Lactic Acid:2.7 mmol/L, Albumin:1.6 g/dL, LDH:684 IU/L, Ca++:7.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   74 yom CAD, admitted [**3-6**] workup for FUO with interval development of
   embolic hemorrhagic strokes, found unresponsive, asystolic, and
   pulseless, s/p resusciation.
   RESPIRATORY FAILURE -- intubated in context of cardiac arrest.  Stable
   on current settings.  Continue mechanical ventilation, Monitor SaO2.
   Radiographic evidence for pleural effusions, bilateral.  Reasonable gas
   exchange.  Main obstacle to extubation currently altered mental status.
   s/p CARDIAC ARREST
 asystole as initial rhythm, may have experienced
   PEA.  s/p cooling protocol, now complete.  Continue current level of
   support.  Enrolled in research study (receiving either steroid vs
   placebo).
   HYPOTENSION -- attributable in part to sepsis.  Tolerating net weaning
   of vasopressors, monitor BP, maintain MAP >60 mmHg.
   NEUROLOGICAL  -- evidence for multiple CVA, unclear etiology, embolic,
   bilateral.  Possible Continue evaluation as outlined.   Consider
   multiple embolic events, such as endocarditis.  Awaiting final read of
   MRI of spine to assess for spinal cord lesion.  CSF analysis.
   BACTEREMIA -- attributed to line placement in context of code.
   Continue antimicrobials.
   THROMBOCYTOPENIA -- dramatic decline.  Monitor Plts.  Consider HIT,
   ,medication effect, consumptive.
   METABOLIC ACIDOSIS --  Notable for prior lactate of 5.1, now
   improving.  Would repeat.
   RENAL FAILURE -- acute on chronic insufficiency.  Non-oliguric.
   Monitor UO, BUN, creatinine.
   HYPONATREMIA -- total body water overloaded.  Would check serum/urine
   osmoles, urine electrolytes.  Would provide NS constant infusion,
   monitor serial Na.  Change meds to NS.
   HYPERGLYCEMIA -- improved control.  Now off insulin infusion.  Maintain
   glucose <150.
   NUTRITIONAL SUPPORT -- initiate TF.
   FUO
 unclear etiology.  Evaluation in progress.  Currently without
   fever.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2184-3-25**] 02:32 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2184-03-30 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 LUMBAR PUNCTURE - At [**2184-3-29**] 03:40 PM
   - MRI head - profuse emobolic CVA's
   - MRI neck - stable degenerative disease
   - LP - Increased protein, normal glucose, 2 WBC with lymph
   "predominance", all cultures/PCR are pending
 HSV, fungal, VZC, EBV,
   CMV, TB
   - Mental Status - wax/wane - occassionally interactive
   - UOP - 120-400 cc/hour
   Allergies:
   Zocor (Oral) (Simvastatin)
   increased liver
   Last dose of Antibiotics:
   Vancomycin - [**2184-3-29**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2184-3-30**] 02:30 AM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2184-3-29**] 09:12 AM
   Fentanyl - [**2184-3-30**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-3-30**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (96.9
   HR: 97 (86 - 106) bpm
   BP: 112/60(72) {75/45(48) - 122/74(99)} mmHg
   RR: 23 (17 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.5 kg (admission): 89 kg
   Height: 70 Inch
    CVP: 1 (1 - 1)mmHg
   Total In:
                                                                  1,781 mL
                                                                    434 mL
   PO:
   TF:
                                                                     16 mL
                                                                     84 mL
   IVF:
                                                                  1,725 mL
                                                                    350 mL
   Blood products:
   Total out:
                                                                  2,973 mL
                                                                  1,555 mL
   Urine:
                                                                  2,723 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
                                                                    250 mL
                                                                    495 mL
   Balance:
                                                                 -1,192 mL
                                                                 -1,121 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 588 (520 - 720) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 40
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///12/
   Ve: 14.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   55 K/uL
   8.6 g/dL
   193 mg/dL
   2.4 mg/dL
   12 mEq/L
   4.2 mEq/L
   67 mg/dL
   104 mEq/L
   130 mEq/L
   26.7 %
   22.1 K/uL
        [image002.jpg]
                             [**2184-3-27**]  06:07 AM
                             [**2184-3-27**]  04:00 PM
                             [**2184-3-27**]  04:40 PM
                             [**2184-3-28**]  05:00 AM
                             [**2184-3-28**]  05:14 AM
                             [**2184-3-28**]  12:01 PM
                             [**2184-3-28**]  02:59 PM
                             [**2184-3-29**]  05:00 AM
                             [**2184-3-29**]  02:54 PM
                             [**2184-3-30**]  03:36 AM
   WBC
   30.5
   25.5
   22.1
   Hct
   28.1
   29.7
   26.7
   Plt
   109
   72
   55
   Cr
   2.0
   2.1
   2.1
   2.1
   2.2
   2.4
   TCO2
   17
   17
   18
   17
   Glucose
   187
   218
   229
   220
   194
   193
   Other labs: PT / PTT / INR:15.1/31.8/1.3, CK / CKMB /
   Troponin-T:337/19/0.06, ALT / AST:29/74, Alk Phos / T Bili:138/1.3,
   Fibrinogen:441 mg/dL, Lactic Acid:2.7 mmol/L, Albumin:1.6 g/dL, LDH:684
   IU/L, Ca++:7.1 mg/dL, Mg++:2.2 mg/dL, PO4:4.1 mg/dL
   MRI IMPRESSION:
   1. Moderate narrowing of the spinal canal at C3-4 secondary to a
   broad-based disc protrusion without evidence of cord signal
   abnormality. Additional multilevel degenerative changes of the cervical
   spine as described above.
   2. Bilateral pleural effusions. Please correlate with chest
   radiographs.
   MRI HEAD IMPRESSION:
   1. Multiple new foci of restricted diffusion scattered throughout both
   cerebral hemispheres suggestive of a combination of watershed and
   embolic events.
   2. Cortical FLAIR hyperintensities in the biparietal cortices
   suggestive of an hypoxic event.
   3. Stable central and cortical involutional changes as expected for the
   patient's age of 74 years.
   4. Left sphenoid sinus and mastoid disease as described above, the
   activity of which is to be determined clinically.
   CXR: IMPRESSION: Worsening cardiogenic edema. ETT at thoracic inlet.
   Dr. [**First Name (STitle) **] was notified on [**2184-3-29**] at 10 a.m.
   Assessment and Plan
   74 y.o. man with pmh CAD, admitted [**3-6**] with fevers and hypotension,
   currently undergoing extensive workup for FUO with interval development
   of embolic hemorrhagic strokes, found unresponsive, asystolic, and
   pulseless, s/p resuscitation.
   .
   # Unresponsiveness/Hemodynamic instability: PEA arrest on [**3-25**].  Patient
   was coded for roughly 20 minutes, undergoing chest compressions, NaHCO3
   and epinephrine.  Unclear etiology, though patient had prodrome during
   the day of new weakness and upgoing babinski, along with urinary
   retention, which then progressed to respiratory alkalosis of unknown
   cause. He was put on cooling protocol s/p Echo, EEG, CT of head
   (negative for acute bleed).  He had a femoral line with 1 positive BCx
 GPC - New RIJ was placed on [**3-25**].  He is still requiring pressor
   support, though able to be weaned off of neosynephrine overnight.  LP
   done.
   Mental status has improved and intermittently follows commands.
   - vancomycin, zosyn both discontinued per ID
   - wean pressors, now only on levophed
   - f/u bld, urine cx, LP cx
   - f/up neuro recs
   - trend lactate
   - CSF cultures, HSV, VZV, EBV, TB
   - TEE today to look for potential source of emboli
   .
   # Thrombocytopenia
 platelets today are 72, stepwise decline from 201
   on [**3-25**]^th. Most likely possibility is drug related (zosyn vs
   heparin vs vancomycin), could also be DIC (unlikely given stable HCT)
   or TTP. Unclear if this affects his prognosis
   - trend
   - DC heparin, vancomycin, famotidine
   - get DIC/TTP labs for now
   - guaiac stool
   - BMT for BM biopsy results
   .
   # Respiratory status: oxygenating well, improving RSBI
   - on vent continue to wean
   - plan to diurese as tolerates
   .
   # Metabolic acidosis with appropriate respiratory compensation: notable
   for initial lactate of 5.1 likely due to cardiac dysfunction, poor
   forward flow + increased afterload due to pressors and cooling
   - maintain pressors, wean as tolerated
   .
   # Fevers of unknown origin - fever curve has trended down with T max of
   100.1. Per discussions with ID, would not pursue gallium scan unless
   spikes a true fever. Continues to be off antibiotics. Per primary team,
   ID recomends gallium scan if he spikes another true fever, Rheum does
   not feel this ios consistent with vasculitis or lupus.  Endocrine team
   feels that he is adrenally sufficient and would not supplement with
   steroids at this point. Per hematology, bone marrow with hypercellular
   marrow and not myeloma.
   -- Continue to monitor fever curve
   -- f/u CSF results
   -- TEE
   .
   # Hypoalbuminemia: renal disease, Poor PO. Likely contributes to
   intravascular volume and pressure problems
   .
   # embolic stroke: continuing aspirin and pravastatin per neurology.
   -consider holter on discharge
   -appreciate and follow neuro rec
   -question if need rheum consult
   .
   * Hypothyroidism/Adrenal nodules - Per endo, feel that while he did not
   have a rise in cortisol by 8 points, still feel that he does not need
   steroids given his normal AM cortisol. Additionally, feel that he has
   sick euthyroid and would not give thyroid replacement at this time.
   -- Will need f/u TFTs in [**2-19**] weeks
   -- Will need endocrine follow up.
   .
   * CAD, native vessel - No chest pain.
   -- Continue ASA, statin
   -- Hold BB given hypotension
   .
   * Hyperlipidemia - Statin as above
   .
   * Chronic kidney disease, stage III - Stable.
   .
   # Hyperglycemia
   - insulin sliding scale
   .
   # FEN: IVF, replete electrolytes, nutrition consult for tube feeds
   # Prophylaxis: Subcutaneous heparin, pneumoboots
   # Access: peripherals, right IJ CVL, R A-line
   # Communication: family
   # Code: DNR/DNI
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2184-3-25**] 02:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2184-03-30 10:33:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Remans somnulant, intermittently appropriately responsive, following
   commands.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, ETT
   Allergies:
   Zocor (Oral) (Simvastatin)
   increased liver
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2184-3-30**] 08:09 AM
   Vancomycin - [**2184-3-30**] 08:27 AM
   Infusions:
   Norepinephrine - 0.13 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2184-3-30**] 10:05 AM
   Fentanyl - [**2184-3-30**] 10:05 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2184-3-30**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.3
C (97.4
   HR: 96 (86 - 106) bpm
   BP: 111/57(71) {75/45(48) - 119/74(99)} mmHg
   RR: 18 (17 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.5 kg (admission): 89 kg
   Height: 70 Inch
   CVP: 1 (1 - 1)mmHg
   Total In:
                                                                  1,781 mL
                                                                    879 mL
   PO:
   TF:
                                                                     16 mL
                                                                     84 mL
   IVF:
                                                                  1,725 mL
                                                                    795 mL
   Blood products:
   Total out:
                                                                  2,973 mL
                                                                  1,915 mL
   Urine:
                                                                  2,723 mL
                                                                  1,420 mL
   NG:
   Stool:
   Drains:
                                                                    250 mL
                                                                    495 mL
   Balance:
                                                                 -1,192 mL
                                                                 -1,036 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 609 (520 - 720) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 40
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///12/
   Ve: 12.5 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful (opens eyes,
   squeezes hands), No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.6 g/dL
   55 K/uL
   193 mg/dL
   2.4 mg/dL
   12 mEq/L
   4.2 mEq/L
   67 mg/dL
   104 mEq/L
   130 mEq/L
   26.7 %
   22.1 K/uL
         [image002.jpg]
                             [**2184-3-27**]  06:07 AM
                             [**2184-3-27**]  04:00 PM
                             [**2184-3-27**]  04:40 PM
                             [**2184-3-28**]  05:00 AM
                             [**2184-3-28**]  05:14 AM
                             [**2184-3-28**]  12:01 PM
                             [**2184-3-28**]  02:59 PM
                             [**2184-3-29**]  05:00 AM
                             [**2184-3-29**]  02:54 PM
                             [**2184-3-30**]  03:36 AM
   WBC
   30.5
   25.5
   22.1
   Hct
   28.1
   29.7
   26.7
   Plt
   109
   72
   55
   Cr
   2.0
   2.1
   2.1
   2.1
   2.2
   2.4
   TCO2
   17
   17
   18
   17
   Glucose
   187
   218
   229
   220
   194
   193
   Other labs: PT / PTT / INR:15.1/31.8/1.3, CK / CKMB /
   Troponin-T:337/19/0.06, ALT / AST:29/74, Alk Phos / T Bili:138/1.3,
   Fibrinogen:441 mg/dL, Lactic Acid:2.7 mmol/L, Albumin:1.6 g/dL, LDH:684
   IU/L, Ca++:7.1 mg/dL, Mg++:2.2 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   74 yom CAD, admitted [**3-6**] workup for FUO with interval development of
   embolic hemorrhagic strokes, found unresponsive, asystolic, and
   pulseless, s/p resusciation.
   RESPIRATORY FAILURE -- intubated in context of cardiac arrest.  Stable
   on current settings.  Continue mechanical ventilation, Monitor SaO2.
   Radiographic evidence for pleural effusions, bilateral.  Reasonable gas
   exchange.  Main obstacles to extubation currently altered mental status
   --> improving; and fluid balance (net positive).
   s/p CARDIAC ARREST
 asystole as initial rhythm, may have experienced
   PEA.  s/p cooling protocol, now complete.  Continue current level of
   support.  Enrolled in research study (receiving either steroid vs
   placebo).
   HYPOTENSION -- attributable in part to sepsis.  Tolerating net weaning
   of vasopressors, monitor BP, maintain MAP >60 mmHg.
   NEUROLOGICAL  -- evidence for multiple CVA, unclear etiology, embolic,
   bilateral.  Possible Continue evaluation as outlined.   Consider
   multiple embolic events, such as endocarditis.   MRI of spine clear of
   acute pathology, no evidence spinal cord lesion.  CSF analysis
   unrevealing, although studies remains pending.  Concern raised for
   possible CNS process such as CNS vasculitis.
   BACTEREMIA -- attributed to line placement in context of code.
   Continue antimicrobials.  Await repeat TEE.
   THROMBOCYTOPENIA -- dramatic decline, continued.  Recent Bone Marrow
   without evidence for megakaroycyte defect.  Monitor Plts.  Consider
   HIT, ,medication effect, consumptive.  D/C heparin products and all
   non-essential medications that could be
   ANEMIA -- progressive.  Concern for drug effect.  Check peripheral
   blood smear.
   METABOLIC ACIDOSIS --  Peak lactate of 5.1, now improving.  Would
   repeat.
   RENAL FAILURE -- acute on chronic insufficiency.  Non-oliguric.
   Monitor UO, BUN, creatinine.
   HYPONATREMIA -- total body water overloaded.  Would check serum/urine
   osmoles, urine electrolytes.  Would provide NS constant infusion,
   monitor serial Na.  Change meds to NS.
   HYPERGLYCEMIA -- Now off insulin infusion.  Maintain glucose <150.
   NUTRITIONAL SUPPORT -- initiate TF.
   FUO
 unclear etiology.  Evaluation in progress.  Currently without
   fever.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2184-3-25**] 02:32 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2184-03-31 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2184-3-30**] 03:00 PM
   - Hemolysis/DIC labs negative
   - continues to have worsening thrombocytopenia, held PPI/H2
   - D/C'd Vanc/Zosyn initially, but then ID attg said to go ahead and
   continue vanc/zosyn for 10 day course; restarted zosyn, should restart
   vanc based on level in AM
   - 4T's score of 5, so sent heparin-dependent antibodies, should
   consider Heme consult +/- starting direct thrombin inhibitor in AM
   - TEE failed: could not pass probe successfully into esophagus
   - A-line placed by Anesthesia
   Allergies:
   Zocor (Oral) (Simvastatin)
   increased liver
   Last dose of Antibiotics:
   Vancomycin - [**2184-3-30**] 08:27 AM
   Piperacillin/Tazobactam (Zosyn) - [**2184-3-31**] 01:48 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2184-3-30**] 10:05 AM
   Midazolam (Versed) - [**2184-3-30**] 01:00 PM
   Fentanyl - [**2184-3-30**] 09:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-3-31**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 104 (82 - 106) bpm
   BP: 117/61(77) {93/51(63) - 128/69(85)} mmHg
   RR: 22 (17 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 105.5 kg (admission): 89 kg
   Height: 70 Inch
    CVP: 9 (8 - 16)mmHg
   Total In:
                                                                  1,655 mL
                                                                    509 mL
   PO:
   TF:
                                                                    267 mL
                                                                    214 mL
   IVF:
                                                                  1,389 mL
                                                                    295 mL
   Blood products:
   Total out:
                                                                  2,915 mL
                                                                    325 mL
   Urine:
                                                                  2,420 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
                                                                    495 mL
   Balance:
                                                                 -1,260 mL
                                                                    184 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 465 (423 - 591) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 46
   PIP: 6 cmH2O
   SpO2: 100%
   ABG: 7.40/26/125//-6
   Ve: 15.1 L/min
   PaO2 / FiO2: 313
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   55 K/uL
   8.4 g/dL
   193 mg/dL
   2.4 mg/dL
   12 mEq/L
   4.2 mEq/L
   67 mg/dL
   104 mEq/L
   130 mEq/L
   25.8 %
   22.1 K/uL
        [image002.jpg]
                             [**2184-3-28**]  05:00 AM
                             [**2184-3-28**]  05:14 AM
                             [**2184-3-28**]  12:01 PM
                             [**2184-3-28**]  02:59 PM
                             [**2184-3-29**]  05:00 AM
                             [**2184-3-29**]  02:54 PM
                             [**2184-3-30**]  03:36 AM
                             [**2184-3-30**]  06:15 PM
                             [**2184-3-31**]  05:59 AM
                             [**2184-3-31**]  06:37 AM
   WBC
   30.5
   25.5
   22.1
   Hct
   28.1
   29.7
   26.7
   25.8
   Plt
   109
   72
   55
   Cr
   2.1
   2.1
   2.1
   2.2
   2.4
   TCO2
   18
   17
   17
   17
   Glucose
   [**Telephone/Fax (3) 11903**]94
   193
   Other labs: PT / PTT / INR:15.1/31.8/1.3, CK / CKMB /
   Troponin-T:337/19/0.06, ALT / AST:29/74, Alk Phos / T Bili:138/1.3,
   Fibrinogen:441 mg/dL, Lactic Acid:3.4 mmol/L, Albumin:1.6 g/dL, LDH:684
   IU/L, Ca++:7.1 mg/dL, Mg++:2.2 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   74 y.o. man with pmh CAD, admitted [**3-6**] with fevers and hypotension,
   currently undergoing extensive workup for FUO with interval development
   of embolic hemorrhagic strokes, found unresponsive, asystolic, and
   pulseless, s/p resuscitation.
   .
   # Unresponsiveness/Hemodynamic instability: PEA arrest on [**3-25**].  Patient
   was coded for roughly 20 minutes, undergoing chest compressions, NaHCO3
   and epinephrine.  Unclear etiology, though patient had prodrome during
   the day of new weakness and upgoing babinski, along with urinary
   retention, which then progressed to respiratory alkalosis of unknown
   cause. He was put on cooling protocol s/p Echo, EEG, CT of head
   (negative for acute bleed).  He had a femoral line with 1 positive BCx
 GPC - New RIJ was placed on [**3-25**].  He is still requiring pressor
   support, though able to be weaned off of neosynephrine overnight.  LP
   done.
   Mental status has improved and intermittently follows commands, it is
   waxing/[**Doctor Last Name 282**].
   - vancomycin, zosyn both discontinued and then later re-continued per
   ID
   - consider steroid replacement therapy
   - wean pressors, now only on levophed
   - f/u bld, urine cx, LP cx
   - f/up neuro recs
   - trend lactate
   - CSF cultures, HSV, VZV, EBV, TB
   - TEE today to look for potential source of emboli
   .
   # Thrombocytopenia
 platelets today are 72, stepwise decline from 201
   on [**3-25**]^th. Most likely possibility is drug related (zosyn vs
   heparin vs vancomycin), could also be DIC (unlikely given stable HCT)
   or TTP. Unclear if this affects his prognosis. DIC/TTP labs
   unconcerning.
   - trend
   - re-involve heme
   - PF4 ab pending
   - DC heparin/famotidine, consider re-d/c vanco
   - guaiac stool
   - BMT for BM biopsy results
   .
   # Respiratory status: oxygenating well, improving RSBI
   - on vent continue to wean
   - plan to diurese as tolerates
   .
   # Metabolic acidosis with appropriate respiratory compensation: notable
   for initial lactate of 5.1 likely due to cardiac dysfunction, poor
   forward flow + increased afterload due to pressors and cooling
   - maintain pressors, wean as tolerated
   .
   # Fevers of unknown origin - fever curve has trended down with T max of
   100.1. Per discussions with ID, would
   pursue gallium scan when stable. Rheum does not feel this ios
   consistent with vasculitis or lupus.  Endocrine team feels that he is
   adrenally sufficient and would not supplement with steroids at this
   point. Per hematology, bone marrow with hypercellular marrow and not
   myeloma.
   - rationalize abx
 currently on vanc, zosyn , cultures pending
   -- Continue to monitor fever curve
   -- f/u CSF results
   -- TEE
   .
   # Hypoalbuminemia: renal disease, Poor PO. Likely contributes to
   intravascular volume and pressure problems
   .
   # embolic vs watershe stroke: continuing aspirin and pravastatin per
   neurology.
   -consider holter on discharge
   -appreciate and follow neuro rec
   -question if need rheum consult
   .
   * Hypothyroidism/Adrenal nodules - Per endo, feel that while he did not
   have a rise in cortisol by 8 points, still feel that he does not need
   steroids given his normal AM cortisol. Additionally, feel that he has
   sick euthyroid and would not give thyroid replacement at this time.
   -- Will need f/u TFTs in [**2-19**] weeks
   -- Will need endocrine follow up.
   .
   * CAD, native vessel - No chest pain.
   -- Continue ASA, statin
   -- Hold BB given hypotension
   .
   * Hyperlipidemia - Statin as above
   .
   * Chronic kidney disease, stage III - Stable.
   .
   # Hyperglycemia
   - insulin sliding scale
   .
   # FEN: IVF, replete electrolytes, nutrition consult for tube feeds
   # Prophylaxis: Subcutaneous heparin, pneumoboots
   # Access: peripherals, right IJ CVL, R A-line
   # Communication: family
   # Code: DNR/DNI
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2184-3-25**] 02:32 PM
   Arterial Line - [**2184-3-30**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2184-03-31 11:38:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.  Favorable RSBI.
   Remains on vasopressor, low dose.
   Remains off sedation.  Neurological exam variable, occasionally
   squeezes hands to command, other times remains unresponsive (to sternal
   rub).
   Unsuccessful attempt for repeat TEE (unable to pass probe).
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, ETT
   Allergies:
   Zocor (Oral) (Simvastatin)
   increased liver
   Last dose of Antibiotics:
   Vancomycin - [**2184-3-30**] 08:27 AM
   Piperacillin/Tazobactam (Zosyn) - [**2184-3-31**] 01:48 AM
   Infusions:
   Norepinephrine - 0.12 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2184-3-30**] 01:00 PM
   Fentanyl - [**2184-3-31**] 10:47 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2184-3-31**] 11:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.8
   HR: 97 (82 - 112) bpm
   BP: 81/44(55) {76/44(55) - 128/69(85)} mmHg
   RR: 23 (17 - 26) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 105.5 kg (admission): 89 kg
   Height: 70 Inch
   CVP: 12 (7 - 16)mmHg
   Total In:
                                                                  1,655 mL
                                                                    569 mL
   PO:
   TF:
                                                                    267 mL
                                                                    214 mL
   IVF:
                                                                  1,389 mL
                                                                    354 mL
   Blood products:
   Total out:
                                                                  2,915 mL
                                                                    465 mL
   Urine:
                                                                  2,420 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
                                                                    495 mL
   Balance:
                                                                 -1,260 mL
                                                                    104 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 495 (423 - 591) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 46
   PIP: 6 cmH2O
   SpO2: 99%
   ABG: 7.40/26/125/16/-6
   Ve: 15.1 L/min
   PaO2 / FiO2: 313
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.4 g/dL
   42 K/uL
   197 mg/dL
   2.5 mg/dL
   16 mEq/L
   3.7 mEq/L
   69 mg/dL
   104 mEq/L
   132 mEq/L
   25.8 %
   20.0 K/uL
        [image002.jpg]
                             [**2184-3-28**]  05:00 AM
                             [**2184-3-28**]  05:14 AM
                             [**2184-3-28**]  12:01 PM
                             [**2184-3-28**]  02:59 PM
                             [**2184-3-29**]  05:00 AM
                             [**2184-3-29**]  02:54 PM
                             [**2184-3-30**]  03:36 AM
                             [**2184-3-30**]  06:15 PM
                             [**2184-3-31**]  05:59 AM
                             [**2184-3-31**]  06:37 AM
   WBC
   30.5
   25.5
   22.1
   20.0
   Hct
   28.1
   29.7
   26.7
   25.8
   Plt
   109
   72
   55
   42
   Cr
   2.1
   2.1
   2.1
   2.2
   2.4
   2.5
   TCO2
   18
   17
   17
   17
   Glucose
   [**Telephone/Fax (3) 11903**]94
   193
   197
   Other labs: PT / PTT / INR:14.5/33.5/1.3, CK / CKMB /
   Troponin-T:337/19/0.06, ALT / AST:29/74, Alk Phos / T Bili:138/1.3,
   Fibrinogen:510 mg/dL, Lactic Acid:3.4 mmol/L, Albumin:1.6 g/dL, LDH:684
   IU/L, Ca++:7.6 mg/dL, Mg++:2.3 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   74 yom CAD, admitted [**3-6**] workup for FUO with interval development of
   embolic hemorrhagic strokes, found unresponsive, asystolic, and
   pulseless, s/p resusciation.
   RESPIRATORY FAILURE -- intubated in context of cardiac arrest.  Stable
   on current settings.  Continue mechanical ventilation, Monitor SaO2.
   Radiographic evidence for pleural effusions, bilateral.  Reasonable gas
   exchange.  Main obstacles to extubation currently altered mental status
   --> limited overall improvement; and fluid balance (net positive).
   s/p CARDIAC ARREST
 asystole as initial rhythm, may have experienced
   PEA.  s/p cooling protocol, now complete.  Continue current level of
   support.  Enrolled in research study (receiving either steroid vs
   placebo).
   HYPOTENSION -- attributable in part to sepsis.  Tolerating net weaning
   of vasopressors, monitor BP, maintain MAP >60 mmHg.
   NEUROLOGICAL  -- evidence for multiple CVA, unclear etiology, embolic,
   bilateral.  Possible Continue evaluation as outlined.   Consider
   multiple embolic events, such as endocarditis.   MRI of spine clear of
   acute pathology, no evidence spinal cord lesion.  CSF analysis
   unrevealing, although studies remains pending.  Concern raised for
   possible CNS process such as CNS vasculitis.  Variablilty of mental
   status and exam suggest possible seizures with post ictal.
   BACTEREMIA -- attributed to line placement in context of code.
   Continue antimicrobials.  Unable to perform repeat TEE.
   THROMBOCYTOPENIA
 HIT positive.  Dramatic decline.  Monitor Plts.  D/C
   heparin products and all non-essential medications that could be
   contributing to HIT.  Unclear whether prior CNS emboli related to HIT
   consider anticoagulation.
   ANEMIA -- progressive.  Concern for drug effect.  Check peripheral
   blood smear.
   METABOLIC ACIDOSIS --  Peak lactate of 5.1, now improving.  Would
   repeat.
   RENAL FAILURE -- acute on chronic insufficiency.  Non-oliguric.
   Monitor UO, BUN, creatinine.
   HYPONATREMIA -- total body water overloaded.  Would check serum/urine
   osmoles, urine electrolytes.  Would provide NS constant infusion,
   monitor serial Na.  Change meds to NS.
   HYPERGLYCEMIA -- Now off insulin infusion.  Maintain glucose <150.
   NUTRITIONAL SUPPORT -- initiate TF.
   FUO
 unclear etiology.  Evaluation in progress.  Currently without
   fever.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2184-3-25**] 02:32 PM
   Arterial Line - [**2184-3-30**] 03:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:  Family meeting, including wife.  Provided
   medical update, answered all questions.  Plan continue current course
   and level of support.  Confirmed DNR.
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2184-04-01 07:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - neuro rec - ASA 325 started, not likely vasculitis, likely watershed
   area.
   - started zyprexa today
   - family meeting - still coping with patient condition, continue
   evaluation.
   - adrenal insufficient - on post-arrest study, will empirically treat
   with steroids right now - okayed with Dr. [**Last Name (STitle) 402**]. (100 hydrocort TID)
   - touch base heme/onc regarding anemia and thrombocytopenia (run by ID
   attending) - waiting recs - getting typical dic/hit labs.
   - qeustion EEG for eval of the mental status
   - HIT ab positive, send off serotonin release assay.
   Allergies:
   Zocor (Oral) (Simvastatin)
   increased liver
   Last dose of Antibiotics:
   Vancomycin - [**2184-3-30**] 08:27 AM
   Piperacillin/Tazobactam (Zosyn) - [**2184-4-1**] 05:39 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2184-3-31**] 08:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-4-1**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 105 (90 - 112) bpm
   BP: 94/53(65) {61/36(44) - 116/65(76)} mmHg
   RR: 23 (19 - 29) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 105.5 kg (admission): 89 kg
   Height: 70 Inch
    CVP: 5 (5 - 16)mmHg
   Total In:
                                                                  1,698 mL
                                                                    698 mL
   PO:
   TF:
                                                                    509 mL
                                                                    305 mL
   IVF:
                                                                  1,099 mL
                                                                    393 mL
   Blood products:
   Total out:
                                                                    835 mL
                                                                    135 mL
   Urine:
                                                                    835 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    863 mL
                                                                    563 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 586 (458 - 586) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 55
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///13/
   Ve: 17.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   42 K/uL
   9.5 g/dL
   266 mg/dL
   2.8 mg/dL
   13 mEq/L
   3.9 mEq/L
   81 mg/dL
   101 mEq/L
   129 mEq/L
   29.0 %
   20.0 K/uL
        [image002.jpg]
                             [**2184-3-28**]  05:14 AM
                             [**2184-3-28**]  12:01 PM
                             [**2184-3-28**]  02:59 PM
                             [**2184-3-29**]  05:00 AM
                             [**2184-3-29**]  02:54 PM
                             [**2184-3-30**]  03:36 AM
                             [**2184-3-30**]  06:15 PM
                             [**2184-3-31**]  05:59 AM
                             [**2184-3-31**]  06:37 AM
                             [**2184-4-1**]  05:40 AM
   WBC
   25.5
   22.1
   20.0
   Hct
   29.7
   26.7
   25.8
   29.0
   Plt
   72
   55
   42
   Cr
   2.1
   2.1
   2.2
   2.4
   2.5
   2.8
   TCO2
   18
   17
   17
   17
   Glucose
   [**Telephone/Fax (3) 11930**]93
   197
   266
   Other labs: PT / PTT / INR:14.6/34.1/1.3, CK / CKMB /
   Troponin-T:337/19/0.06, ALT / AST:29/74, Alk Phos / T Bili:138/0.9,
   D-dimer:2388 ng/mL, Fibrinogen:430 mg/dL, Lactic Acid:3.4 mmol/L,
   Albumin:1.6 g/dL, LDH:784 IU/L, Ca++:7.4 mg/dL, Mg++:2.5 mg/dL, PO4:4.8
   mg/dL
   Assessment and Plan
   74 yo man with pmh CAD, admitted [**3-6**] with fevers and hypotension,
   currently undergoing extensive workup for FUO with interval development
   of embolic hemorrhagic strokes, found unresponsive, asystolic, and
   pulseless, s/p resuscitation.
   .
   # Unresponsiveness/Hemodynamic instability: PEA arrest on [**3-25**].  Patient
   was coded for roughly 20 minutes, undergoing chest compressions, NaHCO3
   and epinephrine.  Unclear etiology, though patient had prodrome during
   the day of new weakness and upgoing babinski, along with urinary
   retention, which then progressed to respiratory alkalosis of unknown
   cause. He was put on cooling protocol s/p Echo, EEG, CT of head
   (negative for acute bleed).  He had a femoral line with 1 positive BCx
 GPC - New RIJ was placed on [**3-25**].  He is still requiring pressor
   support, though able to be weaned off of neosynephrine overnight.  LP
   done.
   Mental status has improved and intermittently follows commands, it is
   waxing/[**Doctor Last Name 282**].
   - vancomycin, zosyn both discontinued and then later re-continued per
   ID for total 10 day course; today is day 9
   - wean pressors, now only on levophed
   - f/u bld, urine cx, LP cx
   - f/u neuro recs
   - CSF cultures, HSV, VZV, EBV, TB
   .
   # Thrombocytopenia
 platelets today are 42, stepwise decline from 201
   on [**3-25**]^th. Most likely possibility is drug related (zosyn vs
   heparin vs vancomycin), could also be DIC (unlikely given stable HCT)
   or TTP. Unclear if this affects his prognosis. DIC/TTP labs
   unconcerning.
   - trend
   - re-involve heme
   - PF4 ab POSITIVE; serotonin release antibody drawn and pending
   - DC heparin/famotidine, consider re-d/c vanco
   - guaiac stool
   - BMT for BM biopsy results
   .
   # Respiratory status: oxygenating well, improving RSBI
   - on vent continue to wean
   - plan to diurese as tolerates
   .
   # Metabolic acidosis with appropriate respiratory compensation: notable
   for initial lactate of 5.1 likely due to cardiac dysfunction, poor
   forward flow + increased afterload due to pressors and cooling
   - maintain pressors, wean as tolerated
   .
   # Fevers of unknown origin - fever curve has trended down with T max of
   100.1. Per discussions with ID, would
   pursue gallium scan when stable. Rheum does not feel this ios
   consistent with vasculitis or lupus.  Endocrine team feels that he is
   adrenally sufficient and would not supplement with steroids at this
   point. Per hematology, bone marrow with hypercellular marrow and not
   myeloma.
   - rationalize abx
 currently on vanc, zosyn , cultures pending
   -- Continue to monitor fever curve
   -- f/u CSF results
   -- TEE
   .
   # Hypoalbuminemia: renal disease, Poor PO. Likely contributes to
   intravascular volume and pressure problems
   .
   # embolic vs watershed stroke: continuing aspirin and pravastatin per
   neurology.
   -consider holter on discharge
   -appreciate and follow neuro rec
   -question if need rheum consult
   .
   # Hypothyroidism/Adrenal nodules - Per endo, feel that while he did not
   have a rise in cortisol by 8 points, still feel that he does not need
   steroids given his normal AM cortisol. Additionally, feel that he has
   sick euthyroid and would not give thyroid replacement at this time.
   -- Will need f/u TFTs in [**2-19**] weeks
   -- Will need endocrine follow up.
   .
   # CAD, native vessel - No chest pain.
   -- Continue ASA, statin
   -- Hold BB given hypotension
   .
   # Hyperlipidemia - Statin as above
   .
   # AOCRF
 Now with uptrending creatinine.
   - monitor lytes
   .
   # Hyperglycemia
   - insulin sliding scale
   .
   # FEN: IVF, replete electrolytes, nutrition consult for tube feeds
   # Prophylaxis: Subcutaneous heparin, pneumoboots
   # Access: peripherals, right IJ CVL, R A-line
   # Communication: family
   # Code: DNR/DNI
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2184-3-25**] 02:32 PM
   Arterial Line - [**2184-3-30**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2184-04-01 11:38:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   No significant change in neurological status.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy, ETT
   Allergies:
   Zocor (Oral) (Simvastatin)
   increased liver
   Last dose of Antibiotics:
   Vancomycin - [**2184-3-30**] 08:27 AM
   Piperacillin/Tazobactam (Zosyn) - [**2184-4-1**] 05:39 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2184-3-31**] 08:45 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2184-4-1**] 11:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 101 (91 - 112) bpm
   BP: 98/52(66) {75/44(55) - 116/65(76)} mmHg
   RR: 24 (19 - 29) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 105.5 kg (admission): 89 kg
   Height: 70 Inch
   CVP: 5 (5 - 14)mmHg
   Total In:
                                                                  1,698 mL
                                                                    929 mL
   PO:
   TF:
                                                                    509 mL
                                                                    454 mL
   IVF:
                                                                  1,099 mL
                                                                    474 mL
   Blood products:
   Total out:
                                                                    835 mL
                                                                    175 mL
   Urine:
                                                                    835 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    863 mL
                                                                    754 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 505 (458 - 586) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 55
   PIP: 6 cmH2O
   SpO2: 100%
   ABG: ///13/
   Ve: 16 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Decreased, Inconsistently opens
   eyes, moves head
   Labs / Radiology
   9.5 g/dL
   53 K/uL
   266 mg/dL
   2.8 mg/dL
   13 mEq/L
   3.9 mEq/L
   81 mg/dL
   101 mEq/L
   129 mEq/L
   29.0 %
   25.7 K/uL
        [image002.jpg]
                             [**2184-3-28**]  05:14 AM
                             [**2184-3-28**]  12:01 PM
                             [**2184-3-28**]  02:59 PM
                             [**2184-3-29**]  05:00 AM
                             [**2184-3-29**]  02:54 PM
                             [**2184-3-30**]  03:36 AM
                             [**2184-3-30**]  06:15 PM
                             [**2184-3-31**]  05:59 AM
                             [**2184-3-31**]  06:37 AM
                             [**2184-4-1**]  05:40 AM
   WBC
   25.5
   22.1
   20.0
   25.7
   Hct
   29.7
   26.7
   25.8
   29.0
   Plt
   72
   55
   42
   53
   Cr
   2.1
   2.1
   2.2
   2.4
   2.5
   2.8
   TCO2
   18
   17
   17
   17
   Glucose
   [**Telephone/Fax (3) 11930**]93
   197
   266
   Other labs: PT / PTT / INR:14.6/34.1/1.3, CK / CKMB /
   Troponin-T:337/19/0.06, ALT / AST:29/74, Alk Phos / T Bili:138/0.9,
   D-dimer:2388 ng/mL, Fibrinogen:430 mg/dL, Lactic Acid:3.4 mmol/L,
   Albumin:1.6 g/dL, LDH:784 IU/L, Ca++:7.4 mg/dL, Mg++:2.5 mg/dL, PO4:4.8
   mg/dL
   Assessment and Plan
   74 yom CAD, admitted [**3-6**] workup for FUO with interval development of
   embolic hemorrhagic strokes, found unresponsive, asystolic, and
   pulseless, s/p resusciation.
   RESPIRATORY FAILURE -- intubated in context of cardiac arrest.  Stable
   on current settings.  Continue mechanical ventilation, Monitor SaO2.
   Radiographic evidence for pleural effusions, bilateral.  Reasonable gas
   exchange.  Main obstacles to extubation currently altered mental status
   --> limited overall improvement; and fluid balance (net positive).
   s/p CARDIAC ARREST
 asystole as initial rhythm, may have experienced
   PEA.  s/p cooling protocol, now complete.  Continue current level of
   support.  Enrolled in research study (receiving either steroid vs
   placebo).
   HYPOTENSION -- attributable in part to sepsis.  Tolerating net weaning
   of vasopressors, monitor BP, maintain MAP >60 mmHg.
   NEUROLOGICAL  -- evidence for multiple CVA, unclear etiology, embolic,
   bilateral.  Possible Continue evaluation as outlined.   Consider
   multiple embolic events, such as endocarditis.   MRI of spine clear of
   acute pathology, no evidence spinal cord lesion.  CSF analysis
   unrevealing, although studies remains pending.  Concern raised for
   possible CNS process such as CNS vasculitis.  Variablilty of mental
   status and exam suggest possible seizures with post ictal.
   BACTEREMIA -- attributed to line placement in context of code.
   Continue antimicrobials.  Unable to perform repeat TEE.
   THROMBOCYTOPENIA
 HIT positive.  Dramatic decline.  Monitor Plts.  D/C
   heparin products and all non-essential medications that could be
   contributing to HIT.  Unclear whether prior CNS emboli related to HIT
   consider anticoagulation.
   ANEMIA -- progressive.  Concern for drug effect.  Check peripheral
   blood smear.
   METABOLIC ACIDOSIS --  Peak lactate of 5.1, now improving.  Would
   repeat.
   RENAL FAILURE -- acute on chronic insufficiency.  Non-oliguric.
   Worsening creatinine, possible ATN following arrest.  Maintin
   intravascular repletion.  Monitor UO, BUN, creatinine.
   HYPONATREMIA -- total body water overloaded.  Would check serum/urine
   osmoles, urine electrolytes.  Possible SIADH.  Would provide NS
   constant infusion, monitor serial Na.  Change meds to NS.
   HYPERGLYCEMIA -- Now off insulin infusion.  Maintain glucose <150.
   NUTRITIONAL SUPPORT -- Continue TF.
   FUO
 unclear etiology.  Evaluation in progress.  Currently without
   fever.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2184-4-1**] 07:36 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2184-3-25**] 02:32 PM
   Arterial Line - [**2184-3-30**] 03:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending:
   Extensive discussion with wife [**Name (NI) 117**] and other family members.  Updated
   medical condition, answered all questions.  All agree that patient
   would not chronic mechanical ventilation, and would not want to
   continue high level of support for prolonged period.  Currently patient
   has been breathing with minimal ventilator support, and and is
   otherwise medically ready for extubation but has remained intubated due
   to somnulant mental status.  All agree that patient has undergone
   extensive testing and interventions, and that clearly there has been
   overall clinical decline, includine significant neurological deficit
   (as indicated by head MRI).  All clearly state that patient would not
   want additional interventions if no promise for complete recovery.  All
   agree to proceed with extubation currently, despite somnulant mental
   status in hope that patient will be comfortable and may be able to
   protect airway.  If clinical status declines following extubation, no
   plans for reintubation or resussitation as previously discussed, with
   focus of care then on comfort.  Plan to proceed with extubation.
   Family in attendance.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2184-4-1**] 19:47 ------

2184-04-02 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2184-4-1**] 06:20 PM
   - HIT: the optical density was 0.4 (clinical HIT is >1.6) and therefore
   he likely does not have HIT, will just hold off on fundaparinox.
   - EXTUBATED to face mask.
   - DNR/DNI --> if having difficulty with resp status, then transition to
   CMO, including turning off pressors
   Allergies:
   Zocor (Oral) (Simvastatin)
   increased liver
   Last dose of Antibiotics:
   Vancomycin - [**2184-3-30**] 08:27 AM
   Piperacillin/Tazobactam (Zosyn) - [**2184-4-2**] 05:30 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2184-4-1**] 02:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-4-2**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.6
C (97.9
   HR: 98 (98 - 111) bpm
   BP: 91/47(61) {91/47(61) - 116/60(75)} mmHg
   RR: 28 (21 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.5 kg (admission): 89 kg
   Height: 70 Inch
             Total In:
                                                                  2,571 mL
                                                                    652 mL
   PO:
             TF:
                                                                    961 mL
                                                                    296 mL
   IVF:
                                                                  1,520 mL
                                                                    356 mL
   Blood products:
   Total out:
                                                                    665 mL
                                                                     95 mL
   Urine:
                                                                    665 mL
                                                                     95 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,906 mL
                                                                    557 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Spontaneous): 534 (505 - 633) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///12/
   Ve: 14.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   37 K/uL
   9.6 g/dL
   280 mg/dL
   3.2 mg/dL
   12 mEq/L
   4.1 mEq/L
   95 mg/dL
   106 mEq/L
   133 mEq/L
   30.0 %
   34.2 K/uL
        [image002.jpg]
                             [**2184-3-28**]  02:59 PM
                             [**2184-3-29**]  05:00 AM
                             [**2184-3-29**]  02:54 PM
                             [**2184-3-30**]  03:36 AM
                             [**2184-3-30**]  06:15 PM
                             [**2184-3-31**]  05:59 AM
                             [**2184-3-31**]  06:37 AM
                             [**2184-4-1**]  05:40 AM
                             [**2184-4-1**]  01:51 PM
                             [**2184-4-2**]  05:34 AM
   WBC
   25.5
   22.1
   20.0
   25.7
   34.2
   Hct
   29.7
   26.7
   25.8
   29.0
   30.0
   Plt
   72
   55
   42
   53
   37
   Cr
   2.1
   2.1
   2.2
   2.4
   2.5
   2.8
   2.9
   3.2
   TCO2
   17
   17
   Glucose
   [**Telephone/Fax (3) 11930**]93
   197
   266
   262
   280
   Other labs: PT / PTT / INR:14.6/34.1/1.3, CK / CKMB /
   Troponin-T:337/19/0.06, ALT / AST:29/74, Alk Phos / T Bili:138/0.9,
   D-dimer:2388 ng/mL, Fibrinogen:430 mg/dL, Lactic Acid:3.4 mmol/L,
   Albumin:1.6 g/dL, LDH:784 IU/L, Ca++:7.2 mg/dL, Mg++:2.5 mg/dL, PO4:5.3
   mg/dL
   Assessment and Plan
   74 yo man with pmh CAD, admitted [**3-6**] with fevers and hypotension,
   currently undergoing extensive workup for FUO with interval development
   of embolic hemorrhagic strokes, found unresponsive, asystolic, and
   pulseless, s/p resuscitation.
   .
   # Unresponsiveness/Hemodynamic instability: PEA arrest on [**3-25**].  Patient
   was coded for roughly 20 minutes, undergoing chest compressions, NaHCO3
   and epinephrine.  Unclear etiology, though patient had prodrome during
   the day of new weakness and upgoing babinski, along with urinary
   retention, which then progressed to respiratory alkalosis of unknown
   cause. He was put on cooling protocol s/p Echo, EEG, CT of head
   (negative for acute bleed).  He had a femoral line with 1 positive BCx
 GPC - New RIJ was placed on [**3-25**].  He is still requiring pressor
   support, though able to be weaned off of neosynephrine overnight.  LP
   done.
   Mental status has improved and intermittently follows commands, it is
   waxing/[**Doctor Last Name 282**].
   - vancomycin, zosyn both discontinued and then later re-started zosyn
   per ID for total 10 day course
   - wean pressors, now only on levophed
   - f/u bld, urine cx, LP cx
   - f/u neuro recs
   - f/u CSF cultures, HSV, VZV, EBV, TB
   - need family meeting to readdress goals of care to CMO
   .
   # Thrombocytopenia
 platelets today are 37, stepwise decline from 201
   on [**3-25**]^th. Likely HIT (given pos ab).
   - trend
   - re-involve heme
 holding off anticoag
   - PF4 ab POSITIVE; serotonin release antibody drawn and pending
   - DC heparin/famotidine/vanco
   - guaiac stool
   - BMT for BM biopsy results
   .
   # Respiratory status: oxygenating well, improving RSBI. Extubated.
   - continue to monitor patient status
 give nebs and face mask as
   needed, no reintubation
   - plan to diurese as tolerates
   .
   # Metabolic acidosis with appropriate respiratory compensation: notable
   for initial lactate of 5.1 likely due to cardiac dysfunction, poor
   forward flow + increased afterload due to pressors and cooling
   - maintain pressors, wean as tolerated
   .
   # Fevers of unknown origin - fever curve has trended down with T max of
   100.1. Per discussions with ID, would
   pursue gallium scan when stable. Rheum does not feel this ios
   consistent with vasculitis or lupus.  Endocrine team feels that he is
   adrenally sufficient and would not supplement with steroids at this
   point. Per hematology, bone marrow with hypercellular marrow and not
   myeloma.
   -- Continue to monitor fever curve
   -- f/u CSF results
   .
   # Hypoalbuminemia: renal disease, Poor PO. Likely contributes to
   intravascular volume and pressure problems
   .
   # embolic vs watershed stroke: continuing aspirin and pravastatin per
   neurology.
   -consider holter on discharge
   -appreciate and follow neuro rec
   -question if need rheum consult
   .
   # Hypothyroidism/Adrenal nodules - Per endo, feel that while he did not
   have a rise in cortisol by 8 points, still feel that he does not need
   steroids given his normal AM cortisol. Additionally, feel that he has
   sick euthyroid and would not give thyroid replacement at this time.
   -- Will need f/u TFTs in [**2-19**] weeks
   -- Will need endocrine follow up.
   .
   # CAD, native vessel - No chest pain.
   -- Continue ASA, statin
   -- Hold BB given hypotension
   .
   # Hyperlipidemia - Statin as above
   .
   # AOCRF
 Now with uptrending creatinine.
   - IVF PRN
   - monitor lytes
   .
   # Hyperglycemia
   - insulin sliding scale
   .
   # FEN: IVF, replete electrolytes, nutrition consult for tube feeds
   # Prophylaxis: pneumoboots
   # Access: peripherals, right IJ CVL, R A-line
   # Communication: family
   # Code: DNR/DNI
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2184-4-1**] 10:34 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2184-3-25**] 02:32 PM
   Arterial Line - [**2184-3-30**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2184-04-02 11:01:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated last PM, remains extubated.  Maintaining oxygenation.
   Requires occasional suctioning.
   Remains on vasopressor, now weaning.
   No meaningful neurological responses.
                                        History obtained from Medical records
   Allergies:
   Zocor (Oral) (Simvastatin)
   increased liver
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2184-4-2**] 05:30 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2184-4-1**] 02:03 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2184-4-2**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.5
   HR: 109 (98 - 111) bpm
   BP: 98/52(66) {91/47(61) - 116/60(75)} mmHg
   RR: 25 (21 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 96.5 kg (admission): 89 kg
   Height: 70 Inch
             Total In:
                                                                  2,571 mL
                                                                    854 mL
   PO:
             TF:
                                                                    961 mL
                                                                    431 mL
   IVF:
                                                                  1,520 mL
                                                                    423 mL
   Blood products:
   Total out:
                                                                    665 mL
                                                                    155 mL
   Urine:
                                                                    665 mL
                                                                    155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,906 mL
                                                                    699 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Spontaneous): 534 (534 - 633) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///12/
   Ve: 14.8 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: No(t) Normocephalic, No(t) Poor dentition,
   No(t) Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.6 g/dL
   37 K/uL
   280 mg/dL
   3.2 mg/dL
   12 mEq/L
   4.1 mEq/L
   95 mg/dL
   106 mEq/L
   133 mEq/L
   30.0 %
   34.2 K/uL
        [image002.jpg]
                             [**2184-3-28**]  02:59 PM
                             [**2184-3-29**]  05:00 AM
                             [**2184-3-29**]  02:54 PM
                             [**2184-3-30**]  03:36 AM
                             [**2184-3-30**]  06:15 PM
                             [**2184-3-31**]  05:59 AM
                             [**2184-3-31**]  06:37 AM
                             [**2184-4-1**]  05:40 AM
                             [**2184-4-1**]  01:51 PM
                             [**2184-4-2**]  05:34 AM
   WBC
   25.5
   22.1
   20.0
   25.7
   34.2
   Hct
   29.7
   26.7
   25.8
   29.0
   30.0
   Plt
   72
   55
   42
   53
   37
   Cr
   2.1
   2.1
   2.2
   2.4
   2.5
   2.8
   2.9
   3.2
   TCO2
   17
   17
   Glucose
   [**Telephone/Fax (3) 11930**]93
   197
   266
   262
   280
   Other labs: PT / PTT / INR:14.6/34.1/1.3, CK / CKMB /
   Troponin-T:337/19/0.06, ALT / AST:29/74, Alk Phos / T Bili:138/0.9,
   D-dimer:2388 ng/mL, Fibrinogen:430 mg/dL, Lactic Acid:3.4 mmol/L,
   Albumin:1.6 g/dL, LDH:784 IU/L, Ca++:7.2 mg/dL, Mg++:2.5 mg/dL, PO4:5.3
   mg/dL
   Assessment and Plan
   74 yom CAD, admitted [**3-6**] workup for FUO with interval development of
   embolic hemorrhagic strokes, found unresponsive, asystolic, and
   pulseless, s/p resusciation.
   RESPIRATORY FAILURE -- intubated in context of cardiac arrest.  Stable
   on current settings.  Continue mechanical ventilation, Monitor SaO2.
   Radiographic evidence for pleural effusions, bilateral.  Reasonable gas
   exchange.  Main obstacles to extubation currently altered mental status
   --> limited overall improvement; and fluid balance (net positive).
   s/p CARDIAC ARREST
 asystole as initial rhythm, may have experienced
   PEA.  s/p cooling protocol, now complete.  Continue current level of
   support.  Enrolled in research study (receiving either steroid vs
   placebo).
   HYPOTENSION -- attributable in part to sepsis.  Tolerating net weaning
   of vasopressors, monitor BP, maintain MAP >60 mmHg.
   NEUROLOGICAL  -- evidence for multiple CVA, unclear etiology, embolic,
   bilateral.  Possible Continue evaluation as outlined.   Consider
   multiple embolic events, such as endocarditis.   MRI of spine clear of
   acute pathology, no evidence spinal cord lesion.  CSF analysis
   unrevealing, although studies remains pending.  Concern raised for
   possible CNS process such as CNS vasculitis.  Variablilty of mental
   status and exam suggest possible seizures with post ictal.  No
   neurological improvement.
   BACTEREMIA -- attributed to line placement in context of code.
   Continue antimicrobials.  Unable to perform repeat TEE.
   THROMBOCYTOPENIA
 HIT positive.  Dramatic decline.  Monitor Plts.  D/C
   heparin products and all non-essential medications that could be
   contributing to HIT.  Unclear whether prior CNS emboli related to HIT
   consider anticoagulation.
   ANEMIA -- progressive.  Concern for drug effect.  Check peripheral
   blood smear.
   METABOLIC ACIDOSIS --  Peak lactate of 5.1, now improving.  Would
   repeat.
   RENAL FAILURE -- acute on chronic insufficiency.  Non-oliguric.
   Worsening creatinine, possible ATN following arrest.  Maintin
   intravascular repletion.  Monitor UO, BUN, creatinine.
   HYPONATREMIA -- total body water overloaded.  Would check serum/urine
   osmoles, urine electrolytes.  Possible SIADH.  Would provide NS
   constant infusion, monitor serial Na.  Change meds to NS.
   HYPERGLYCEMIA -- Now off insulin infusion.  Maintain glucose <150.
   NUTRITIONAL SUPPORT -- Continue TF.
   FUO
 unclear etiology.  Evaluation in progress.  Currently without
   fever.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2184-4-1**] 10:34 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2184-3-25**] 02:32 PM
   Arterial Line - [**2184-3-30**] 03:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to floor
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending:
   Family meeting, including wife [**Name (NI) 117**] and daughters.  Updated Medical
   condition, answered all questions.  No clear clinical improvement, and
   evidence for decline.  Appears somewhat labored breathing.  All in
   agreement that patient
s wishes at this time would be for transitioning
   to comfort care.  Plan to discontinue vasopressor medications, all
   other medications except for narcotics and transition to comfort care.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2184-4-2**] 13:46 ------